Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ catheterizations
 
History of Present Illness:
___ with COPD, hyperlipidemia, current smoker, presents with 
chest pain, transferred from ___, ruled in for NSTEMI.

She reports several days of feeling unwell with nonspecific 
symptoms but with acute chest pain today radiating to jaw and 
arms. She presented to ___ where initial vitals were 174/97 108 
20 T98.7, 94%  on room air. She was given ASA 324mg PO, Nitro 
patch, and fentanyl 50mcg IV push. EKG with ST elevation lead I 
and aVL. CXR with interstitial fibrosis, no acute process, 
postoperative changes in the right hilar region. CT was 
concerning for aortic dissection. Labs with troponin-I 0.115 
(ref <0.046), d-dimer 0.56 (ULN 0.58), Cr 1.08, lactate 1.0. She 
was transferred to ___.

In the ED initial vitals were:  97.4 72 133/68 16 96% RA 
Labs notable for WBC 12, TnT 0.80, lactate 0.9, BUn/Cr ___, 
INR 1.2
EKG:  NSR 70 bpm, normal axis, no ischemic changes
Labs notable for:
Patient was given:
___ 20:23 IV Morphine Sulfate 2 mg   
___ 22:03 IV Heparin 4000 UNIT  
___ 22:03 IV Heparin Started 850 units/hour 
Consults:  Vascular consulted for ? dissection. "Imaging 
reviewed with radiology. Does NOT have a dissection, significant 
atherosclerotic disease of the aorta. History consistent with a 
acute coronary event. Recommend cardiology evaluation. Vascular 
surgery will sign off."
 
On the floor, patient has no complaints.

ROS:  Recent general malaise, no URI symptoms. Recent back pain. 
Today with acute chest pain radiating to arms and jaw, now 
resolved. Denies overt fever, chills, nausea, vomiting, dyspnea, 
abdominal pain, diarrhea, constipation, dysuria, frequency.
 
Past Medical History:
- COPD
- Hyperlipidemia, recent diagnosis, not on treatment
 
Social History:
___
Family History:
No CAD, SCD, CVA, HTN, HLP. Mother with diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  T97.6 157/79 82 18 93RA 52kg
HEENT:  No scleral icterus, no carotid bruits
___:  RRR, normal S1 S2, no obvious murmurs
LUNGS:  Clear, no wheezes or rales
ABD:  Soft, NT ND, normal BS
EXT:  No ___ edema, 2+ DP and ___ pulses

DISCHARGE PHYSICAL EXAM:
VS: 98.2   ___   ___   19   95RA
Tele - No events
Wt: 53.1kg <- 52.0kg 
Yesterday I/Os: 350/50 // ___, 1BM
GENERAL: well appearing woman in NAD, conversing.  
NECK: Supple, no LVD appreciated
CARDIAC: regular rhythm. Normal S1, S2. No murmur appreciated
LUNGS: Resp unlabored, no accessory muscle use. Fine crackles 
throughout without wheezes
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No ___ edema or cyanosis
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:16PM   ___ PTT-38.5* ___
___ 08:16PM   PLT COUNT-348
___ 08:16PM   NEUTS-61.2 ___ MONOS-7.0 EOS-1.9 
BASOS-0.4 IM ___ AbsNeut-7.47* AbsLymp-3.55 AbsMono-0.85* 
AbsEos-0.23 AbsBaso-0.05
___ 08:16PM   WBC-12.2* RBC-4.13 HGB-12.6 HCT-38.2 MCV-93 
MCH-30.5 MCHC-33.0 RDW-12.9 RDWSD-43.6
___ 08:16PM   TRIGLYCER-215* HDL CHOL-22 CHOL/HDL-10.1 
LDL(CALC)-158*
___ 08:16PM   CALCIUM-9.1 PHOSPHATE-4.0 MAGNESIUM-2.2 
CHOLEST-223*
___ 08:16PM   cTropnT-0.80*
___ 08:16PM   GLUCOSE-137* UREA N-17 CREAT-1.1 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-17
___ 08:21PM   LACTATE-0.9

PERTINENT LABS
==============
___ 06:05AM BLOOD cTropnT-0.62*
___ 08:45PM BLOOD cTropnT-0.51*
___ 06:10AM BLOOD CK-MB-60* cTropnT-0.87*
___ 08:16PM BLOOD cTropnT-0.80*
___ 12:22AM BLOOD %HbA1c-5.4 eAG-108
___ 08:16PM BLOOD Triglyc-215* HDL-22 CHOL/HD-10.1 
LDLcalc-158*
___ 08:16PM BLOOD Calcium-9.1 Phos-4.0 Mg-2.2 Cholest-223*

DISCHARGE LABS
==============
___ 06:05AM BLOOD WBC-10.3* RBC-3.84* Hgb-11.4 Hct-35.6 
MCV-93 MCH-29.7 MCHC-32.0 RDW-13.1 RDWSD-44.0 Plt ___
___ 06:05AM BLOOD Glucose-96 UreaN-12 Creat-1.0 Na-141 
K-3.9 Cl-107 HCO3-24 AnGap-14
___ 06:05AM BLOOD Calcium-8.8 Phos-2.9 Mg-2.1

RADIOLOGY
=========
___ Abd CT
Severe atherosclerotic disease in the descending thoracic and 
abdominal aorta. No evidence of acute aortic dissection or 
aneurysm. 

___ Chest CT
Severe atherosclerotic disease in the descending thoracic and 
abdominal aorta. No evidence of acute aortic dissection or 
aneurysm. 

___ Carotid US
1. Moderate to severe echogenic atherosclerotic plaque in the 
right ICA 
resulting in 60-69% stenosis. 
2. Moderate echogenic atherosclerotic plaque in the left ICA 
resulting in 
40-59% stenosis. 

CARDIAC STUDIES
===============
___ ECHO
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with mild 
hypokinesis of the basal inferior and inferolateral walls. The 
remaining segments contract normally (LVEF = 50%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

 IMPRESSION: Mild regional left ventricular systolic 
dysfunction, c/w CAD. Mild mitral regurgitation.  

___ Cath
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD is free of significant disease.
* Circumflex
The Circumflex has a 90% mid stenosis.
* Right Coronary Artery
The RCA is free of significant disease with 30% distal stenosis.

Impressions:
Successful PCI of mid Cx with 2.5 by 15 ___ with good result 
and moderate pinching of origin of OM2.

Recommendations
ASA and Plavix.
Tirofiban for 4 hrs.

 
Brief Hospital Course:
___ with COPD, hyperlipidemia, current smoker, presents with 
chest pain, transferred from ___, ruled in for NSTEMI.

# CORONARIES:  90% stenosis of LCx, s/p DES
# PUMP:  EF 50% ___
# RHYTHM:  NSR, pt reports abnormal EKG ___ ago after MVA, work 
up negative at the time per pt except for high cholesterol which 
she self stopped

# NSTEMI. 
Risk factors include age, current smoker, hyperlipidemia. 
Presents with acute onset chest pain radiating to jaw and arms. 
Initial OSH course included hypertension with STE I and aVL 
which resolved with ASA, NTG, fentanyl. CT chest also concerning 
for aortic dissection, evaluated by Vascular Surgery at ___ 
and determined to not be dissection. EKG on presentation to 
___ without ischemia and she was chest pain free. Initial TnT 
significantly elevated at 0.80, with peak 0.87. ECHO with EF 50% 
and mild MR. ___ cath with 90% stenosis of LCx, s/p DES. 
Patient was DC'd on ASA 81mg daily, Plavix 75mg daily, and 
metoprolol XL 25mg daily. She also received smoking cessation 
counseling and a prescription for nicotine patch. She was given 
appropriate PCP ___ with request for cardiology referral.

RISK FACTOR PANEL:
   A1c: 5.4
   LDL: 158
   Trig: 215

#Carotid Disease
Patient was found to have extensive vascular disease on CTA 
chest, including her carotid arteries. Carotid US showed 60-69% 
stenosis of R ICA and 40-59% stenosis of L ICA. Requested PCP 
referral to vascular surgery on DC.

# COPD. No acute exacerbation.
- continued home meds

====================
TRANSITIONAL ISSUES:
====================
- Started on ASA 81mg, Plavix 75mg, Atorvastatin 80mg, SL 
nitroglycerine PRN chest pain and metoprolol 25mg.
- Patient was counseled to stop smoking and given a prescription 
for a nicotine patch at discharge.
- Patient needs PCP ___ and to establish care with cardiologist.
- 60-69% stenosis of R ICA and 40-59% stenosis of L ICA. Will 
need PCP referral to vascular surgery.
- Discharge weight: 53.1kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
5. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1
6. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Apply to shoulder or thigh every 
morning. Daily Disp #*28 Patch Refills:*2
7. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually 
Q15min Disp #*100 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
NSTEMI

SECONDARY:
COPD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for a 
___ attack. You had a ___ catheterization that showed a 
blockage of one of the blood vessels around your ___. The 
interventional cardiologists placed a stent in this blood vessel 
to open it and improve blood flow to your ___. 

Please see the attached medication sheet that outlines changes 
in your home medications. Because you received a stent, it is 
very important to never miss ___ dose of clopidogrel and aspirin, 
because doing so can cause a massive ___ attack. Please do not 
stop these medications without speaking first to your 
cardiologist. Please also weigh yourself every morning and call 
your doctor if your weight goes up by more than 3 lbs. You will 
also need to ___ with your primary care physician and 
establish care with a cardiologist.

We want to congratulate you for not smoking during your 
hospitalization and want to encourage you to continue to not 
smoke to reduce your risk of ___ problems in the future.

We wish you the best of health,
Your ___ Care Team
 
Followup Instructions:
___